US05539115
1.1 g (2.5 mmol) of (-)-2-(4-(4-hydroxy-5,5,5-trifluoro-1-pentyl)phenyl)-5-decyloxypyrimidine was dissolved in 10 ml of tetrahydrofuran. This solution was added with 0.12 g (3 mmol) of potassium hydride, stirred at 10°-20° C. for 20 minutes, further added with 0.85 g (3 mmol) of octyl p-toluenesulfonate and reacted at 20°-30° C. for 2 hours. The reaction mixture was poured into 100 ml of water and 100 ml of toluene, and the toluene layer was washed with water and concentrated under reduced pressure. The residue was purified by silica gel column chromatography using toluene/ethyl acetate as eluent to obtain 0.80 g of (-)-2-(4-(4-octyloxy-5,5,5-trifluoro-1-pentyl)phenyl)-5-decyloxypyrimidine

reactant | (-)-2-(4-(4-hydroxy-5,5,5-trifluoro-1-pentyl)phenyl)-5-decyloxypyrimidine | 2.5 mmol, 1.1 g | OC(CCCC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C(F)(F)F | C25H35F3N2O2
reactant | potassium hydride | 3 mmol, 0.12 g | [H-].[K+]
reactant | octyl p-toluenesulfonate | 3 mmol, 0.85 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCC)C | C15H24O3S
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (-)-2-(4-(4-octyloxy-5,5,5-trifluoro-1-pentyl)phenyl)-5-decyloxypyrimidine | 0.80 g | C(CCCCCCC)OC(CCCC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C(F)(F)F | C33H51F3N2O2
